US06514975B1
Methyl 4-[(R)-1-[(2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl]-1-(3-tert-butyldimethylsilyloxyphenyl)methyl]benzoate
A solution of (−)-(2R,5S)-1-allyl-2,5-dimethylpiperazine (22.26 g), benzotriazole (17.18 g) and methyl 4-formylbenzoate (23.7 g) in toluene (400 ml) was heated under reflux with azeotropic removal of water for 3 hours. The solution was cooled and added to a cold solution (−20° C.) of 3-tert-butyldimethylsilyloxyphenylmagnesium bromide (prepared from 82.9 g of corresponding bromide and 7.29 g of magnesium turnings) in tetrahydrofuran (300 ml) at such a rate as to maintain the internal temperature in the range −20 to −15° C. The resulting solution was stirred at −20° C. for 1.5 hours and then warmed to room temperature, quenched with saturated aqueous ammonium chloride solution (200 ml). The layers were separated and the aqueous solution extracted with ethyl acetate (2×200 ml). The combined organic extracts were dried (MgSO4) and evaporated to dryness in vacuo. The residue was purified by column chromatography over silica gel (85/15/2 hexane/ethyl acetate/diethyl amine) to afford the title compound, 54.45 g.

reactant | (−)-(2R,5S)-1-allyl-2,5-dimethylpiperazine | 22.26 g | C(C=C)N1[C@@H](CN[C@H](C1)C)C | C9H18N2
reactant | benzotriazole | 17.18 g | N1N=NC2=C1C=CC=C2 | C6H5N3
reactant | methyl 4-formylbenzoate | 23.7 g | C(=O)C1=CC=C(C(=O)OC)C=C1 | C9H8O3
reactant | 3-tert-butyldimethylsilyloxyphenylmagnesium bromide | 82.9 g | [Si](C)(C)(C(C)(C)C)OC=1C=C(C=CC1)[Mg]Br
solvent | toluene | 400 ml | C1(=CC=CC=C1)C | C7H8
solvent | tetrahydrofuran | 300 ml | O1CCCC1 | C4H8O
solvent | water | O | H2O
product | Methyl 4-[(R)-1-[(2S,5R)-4-Allyl-2,5-dimethyl-1-piperazinyl]-1-(3-tert-butyldimethylsilyloxyphenyl)methyl]benzoate | C(C=C)N1C[C@@H](N(C[C@H]1C)[C@@H](C1=CC(=CC=C1)O[Si](C)(C)C(C)(C)C)C1=CC=C(C(=O)OC)C=C1)C | C30H44N2O3Si
